US04178449
7-Hydroxy-5-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine
A mixture of 0.83 g. of 3-aminopyrazole and 2.61 g. of ethyl m-trifluoromethylbenzoylacetate is heated on a steam bath for 2 hours. After cooling the desired compound is collected by filtration, m.p. 305°-310° C.

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl m-trifluoromethylbenzoylacetate | FC(C=1C=C(C(=O)CC(=O)OCC)C=CC1)(F)F | C12H11F3O3
product | 7-Hydroxy-5-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine | OC1=CC(=NC=2N1N=CC2)C=2C=C(C=CC2)C(F)(F)F | C13H8F3N3O
